US06596751B2
4-t-Butoxycarbonylmethoxy-N-(2-benzoylphenyl)alanine methyl ester
A mixture of N-(2-benzoylphenyl)tyrosine methyl ester (0.97 g), t-butyl bromoacetate (0.55 ml), cesium carbonate (1.14 g), and acetone (15 ml) was stirred at room temperature for 1.5 hours and allowed to stand overnight. The reaction mixture was partitioned between ethyl acetate and water. The extract was washed with saturated aqueous chloride solution, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to afford the title compound (1.42 g, Rf=0.65: thin layer chromatography on a silica gel plate using hexane: ethyl acetate=3:1 as the eluant).

reactant | N-(2-benzoylphenyl)tyrosine methyl ester | 0.97 g | COC([C@@H](NC1=C(C=CC=C1)C(C1=CC=CC=C1)=O)CC1=CC=C(C=C1)O)=O | C23H21NO4
reactant | t-butyl bromoacetate | 0.55 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | cesium carbonate | 1.14 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetone | 15 ml | CC(=O)C | C3H6O
product | 4-t-Butoxycarbonylmethoxy-N-(2-benzoylphenyl)alanine methyl ester | COC([C@@H](NC1=C(C=C(C=C1)OCC(=O)OC(C)(C)C)C(C1=CC=CC=C1)=O)C)=O | C23H27NO6
